US06518257B1
(ii) Production of N-(3-bromo-4-fluorophenyl)acetamide
By the reaction in the same manner as in Example 33-(i) using 2-bromo-1-fluoro-4-nitrobenzene (2.27 g), iron powder (2.90 g) and acetic anhydride (2.0 ml), the title compound (2.28 g) was obtained as colorless powder crystals.

reactant | 2-bromo-1-fluoro-4-nitrobenzene | 2.27 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | acetic anhydride | 2.0 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | iron | 2.90 g | [Fe] | Fe
product | N-(3-bromo-4-fluorophenyl)acetamide | 2.28 g | BrC=1C=C(C=CC1F)NC(C)=O | C8H7BrFNO
